US09403798B2
6-Chloro-4-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one
To a tetrahydrofuran solution (200 mL) of 2,4-dichloro-6-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazine (21.0 g, 63 mmol) synthesized in Reference Synthesis Example 1, 1 M sodium hydroxide aqueous solution (128 mL, 128 mmol) was added at room temperature and the resultant solution was stirred for 1 day. To the reaction solution, 1 M sodium hydroxide aqueous solution (32 mL, 32 mmol) was added and the resultant mixture was stirred for 6 hours. To the reaction solution, 1 M sodium hydroxide aqueous solution (19 mL, 19 mmol) was further added and the resultant solution was stirred for 2 hours. After completion of the reaction, pH of the reaction solution was adjusted to 4 by adding 1 M hydrochloric acid. After removing impurities, the resultant mixture was concentrated under reduced pressure to obtain a solid. The solid was collected by filtration, washed with water, and dried under reduced pressure to obtain the title compound (15.2 g, yield 79%).

reactant | 2,4-dichloro-6-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazine | 63 mmol, 21.0 g | ClC1=NC(=NC(=N1)Cl)N1CCN(CC1)C1=CC=C(C=C1)F | C13H12Cl2FN5
reactant | sodium hydroxide | 128 mmol, 1 M, 128 mL | [OH-].[Na+]
reactant | sodium hydroxide | 32 mmol, 1 M, 32 mL | [OH-].[Na+]
reactant | sodium hydroxide | 19 mmol, 1 M, 19 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 6-Chloro-4-[4-(4-fluorophenyl)piperazin-1-yl]-1,3,5-triazin-2(1H)-one | 15.2 g, yield 79% | ClC1=NC(=NC(N1)=O)N1CCN(CC1)C1=CC=C(C=C1)F | C13H13ClFN5O
